US06967197B2
To a solution of lithium diisopropylamide in tetrahydrofuran (10 ml) prepared from diisopropylamine (801 mg) and n-butyl lithium (5.18 ml, 1.53M in n-hexane) was added dropwise a solution of 7-(5-bromo-2-thienyl)-4-tert-butoxycarbonylperhydro-1,4-thiazepine 1,1-dioxide (2.5 g) in tetrahydrofuran (25 ml) at −50° C. under a nitrogen atmosphere. After the mixture was stirred for 15 minutes, a solution of tert-butyl bromoacetate (1.78 g) in tetrahydrofuran (5 ml) was added dropwise therein under the same condition and the reaction mixture was stirred for 30 minutes. After addition of a saturated aqueous solution of ammonium chloride, the mixture was extracted with ethyl acetate (50 ml). The extract was washed successively with 5% hydrochloric acid, a saturated aqueous solution of sodium bicarbonate and brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by SiO2 column chromatography (eluent; hexane:ethyl acetate=5:1) to afford tert-butyl-2-[7-(5-bromo-2-thienyl)-4-tert-butoxycarbonyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate (1.62 g) as an amorphous powder.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 801 mg | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.53M, 5.18 ml | C(CCC)[Li]
reactant | 7-(5-bromo-2-thienyl)-4-tert-butoxycarbonylperhydro-1,4-thiazepine 1,1-dioxide | 2.5 g | BrC1=CC=C(S1)C1CCN(CCS1(=O)=O)C(=O)OC(C)(C)C | C14H20BrNO4S2
reactant | tert-butyl bromoacetate | 1.78 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | tert-butyl-2-[7-(5-bromo-2-thienyl)-4-tert-butoxycarbonyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate | 1.62 g | C(C)(C)(C)OC(CC1(CCN(CCS1(=O)=O)C(=O)OC(C)(C)C)C=1SC(=CC1)Br)=O | C20H30BrNO6S2
